US08067362B2
Step 1: Synthesis of 4-[(2-tert-Butoxycarbonylethylamino)methyl]benzoic acid
Tert-butyl 3-aminopropanoate hydrochloride (5 g, 27.7 mmol) was dissolved in methanol (150 mL). Diisopropylethylamin (4.73 mL, 27.7 mmol) was added followed by 4-carboxybenzaldehyde. The mixture is heated to reflux for 1 hour. After cooling to room temperature sodium cyanoborohydride (1.77 g, 22.1 mmol) was added under nitrogen and stirred for 1 hour at room temperature. Acetic acid (15 mL) was added and the mixture was stirred for an additional 1 hour. The mixture was poured into water (300 mL) and stirred at room temperature over night. The water solution was washed with ethyl acetate (3×250 mL). The organic phase dried (Na2SO4) and solvent removed in vacuo to yield the crude product as an oil which solidifies by standing. The crude product was used in the next step without further purification.

reactant | Tert-butyl 3-aminopropanoate hydrochloride | 27.7 mmol, 5 g | Cl.NCCC(=O)OC(C)(C)C
reactant | Diisopropylethylamin | 27.7 mmol, 4.73 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-carboxybenzaldehyde | C(=O)(O)C1=CC=C(C=O)C=C1 | C8H6O3
reactant | sodium cyanoborohydride | 22.1 mmol, 1.77 g | C(#N)[BH3-].[Na+]
solvent | methanol | 150 mL | CO | CH4O
solvent | water | 300 mL | O | H2O
solvent | Acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 4-[(2-tert-Butoxycarbonylethylamino)methyl]benzoic acid | C(C)(C)(C)OC(=O)CCNCC1=CC=C(C(=O)O)C=C1 | C15H21NO4
